US04117019
A solution of 70 parts of o-xylyl chloride and 160 parts of benzene is added to a mixture of 170 parts of 85 per cent strength by weight phosphoric acid and 30 parts of trifluoromethanesulfonic acid at from 75° to 78° C, whilst stirring vigorously. After a further 6 hours, the organic phase is separated off and 79 parts (87.7% of theory) of o-benzyltoluene boiling at 98° C at 0.2 mm Hg are isolated by distillation.

reactant | o-xylyl chloride | CC1=CC=CC=C1CCl | C8H9Cl
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | trifluoromethanesulfonic acid | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | o-benzyltoluene | 87.7% | C(C1=CC=CC=C1)C1=C(C=CC=C1)C | C14H14
